US08431596B2
[4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-{5-[3-(tetrahydro-furan-2-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amine (XX-175)
Tetrahydrofurfuryl bromide (20 mg, 0.18 mmol) was added to a stirred solution of 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol (50 mg, 0.12 mmol) and potassium carbonate (25 mg, 0.18 mmol) in dimethylformamide (1.5 ml). The mixture was heated overnight at 80° C. then cooled and transferred to a vial for purification by preparatory HPLC. RT: 2.70 min, MI: 500.22, Method: 2.

reactant | Tetrahydrofurfuryl bromide | 0.18 mmol, 20 mg | C(C1CCCO1)Br | C5H9BrO
reactant | 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenol | 0.12 mmol, 50 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)O)=N1 | C24H25N5O2
reactant | potassium carbonate | 0.18 mmol, 25 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-{5-[3-(tetrahydro-furan-2-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amine | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C2=CC(=CC=C2)OCC2OCCC2)=N1 | C29H33N5O3
